US08614328B2
A solution of 3-(3-methyl-benzyloxy)-phthalic acid dimethyl ester (2.0 g crude, 6.4 mmol) in reagent alcohol (100 mL) and 3 N sodium hydroxide (60 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (100 mL) and washed with methylene chloride (3×100 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers was washed with water (2×100 mL), dried and concentrated to give 3-(3-methyl-benzyloxy)-phthalic acid as an off-white solid (3.0 g, 130% crude yield). The product was used in the next step without further purification.

reactant | 3-(3-methyl-benzyloxy)-phthalic acid dimethyl ester | 6.4 mmol, 2.0 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC(=CC=C1)C)=O | C18H18O5
solvent | sodium hydroxide | 3 N, 60 mL | [OH-].[Na+]
product | 3-(3-methyl-benzyloxy)-phthalic acid | CC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C16H14O5
